US05180419
Preparation of N,N-Diethyl-5,6-(methylenedioxy)phthalamic acid
A solution of N,N-diethylpiperonylamide 10.0 g, 45.0 mmol) in tetrahydrofuran is added dropwise at -65° C. to -55° C. to a mixture of sec-Butyllithium (500 mL, 50.0 mmol, 1M in cyclohexane) in tetrahydrofuran under a nitrogen atmosphere. The reaction mixture is poured over tetrahydrofuran saturated with dry ice, allowed to warm to 0° C., treated slowly with water and acidified to pH 3 with concentrated sulfuric acid. The tetrahydrofuran is removed in vacuo and the aqueous residue is extracted with ethyl acetate. The organic extract is dried (MgSO4) and concentrated in vacuo to a yellow-orange gum, NMR and mass spectrographic analysis show it to be a mixture of starting material and the title product. The above aqueous layer is acidified further to pH 2, extracted with ethyl acetate, and the organic extract is dried (MgSO4) and concentrated in vacuo to yield the title product as a yellow foam, 4.00 g (33.6%) identified by NMR spectral analysis.

reactant | N,N-diethylpiperonylamide | 45.0 mmol, 10.0 g | C(C)N(C(C1=CC=2OCOC2C=C1)=O)CC | C12H15NO3
reactant | sec-Butyllithium | 50.0 mmol, 1M, 500 mL | C(C)(CC)[Li]
reactant | dry ice | C(=O)=O | CO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N,N-Diethyl-5,6-(methylenedioxy)phthalamic acid | C(C)N(C(C=1C(C(=O)O)=C2C(=CC1)OCO2)=O)CC | C13H15NO5
